US06696476B2
Step A: 6-Benzyloxy-1-[2-(tert-butyldimethyl-silanyloxy)-propyl]-1H-indazole
To a mixture of 1-(6-benzyloxyindazol-1-yl)-propan-2-ol (10 g, 35.5 mmol) in THF (100 mL) and imidazole (3.4 g, 50 mmol) was added tert-butyl-chloro-dimethyl-silane (6.42 g, 42.6 mmol) and the mixture was stirred for 15 min at ambient temperature. The reaction mixture was poured into a saturated aqueous solution of ammonium acetate (300 mL) and extracted with ethyl acetate (2×150 mL). Purification by chromatography (silica, EtOAc/hexane) gave a yellow solid (10.6 g, 76%): mp 56-58° C.; LC/MS (+APCI) m/z 397 (M+H).

reactant | 1-(6-benzyloxyindazol-1-yl)-propan-2-ol | 35.5 mmol, 10 g | C(C1=CC=CC=C1)OC1=CC=C2C=NN(C2=C1)CC(C)O | C17H18N2O2
reactant | imidazole | 50 mmol, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-chloro-dimethyl-silane | 42.6 mmol, 6.42 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | ammonium acetate | 300 mL | C(C)(=O)[O-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Benzyloxy-1-[2-(tert-butyldimethyl-silanyloxy)-propyl]-1H-indazole | 10.6 g, 76% | C(C1=CC=CC=C1)OC1=CC=C2C=NN(C2=C1)CC(C)O[Si](C)(C)C(C)(C)C | C23H32N2O2Si
